* File imd.cir
.title IMD compute
*************************************************
* Audio small-signal BJT models (Hfe ≈ 400)
*************************************************
.include mymodel.cir
.include include.cir

RLOAD OUT 0 10k
Vpwr SUP 0 51 

V19 n19 0 SIN(0 0.1 19k)
V20 n20 0 SIN(0 0.1 20k)
R19 n19 IN 1
R20 n20 IN 1

.control
  set noaskquit
  op

  tran 5u 321m 161m 500n
  wrdata imd_time.csv time v(out)
  quit
.endc
.end


